US04988711
1-(4-Fluoro-3-phenoxyphenyl)-4-methyl-pent-1-en-3-one
14.1 ml of 15% strength aqueous potassium hydroxide solution are added to 64.8 g (0.3 mol) of 3-phenoxy-4fluorobenzaldehyde and 51.6 g (0.6 mol) of methyl isopropyl ketone in 90 ml of methanol and the mixture is stirred overnight at room temperature. The mixture is neutralized using 1.95 ml of glacial acetic acid, diluted using 300 ml of water and extracted a number of times using ether. The organic phase is dried over magnesium sulphate and concentrated in vacuo, and the residue is chromatographed on a column (silica gel 70-230 mesh, using ethyl acetate/petroleum ether 1:9).

reactant | potassium hydroxide | [OH-].[K+]
reactant | 3-phenoxy-4fluorobenzaldehyde | 0.3 mol, 64.8 g | O(C1=CC=CC=C1)C=1C=C(C=O)C=CC1F | C13H9FO2
reactant | methyl isopropyl ketone | 0.6 mol, 51.6 g | C(C)(C)C(=O)C | C5H10O
reactant | acetic acid | 1.95 ml | C(C)(=O)O | C2H4O2
solvent | methanol | 90 ml | CO | CH4O
solvent | water | 300 ml | O | H2O
product | 1-(4-Fluoro-3-phenoxyphenyl)-4-methyl-pent-1-en-3-one | FC1=C(C=C(C=C1)C=CC(C(C)C)=O)OC1=CC=CC=C1 | C18H17FO2
